### PR TITLE
[Merged by Bors] - feat(Nat/Digits): ofDigits_add_ofDigits_eq_ofDigits_zipWith_of_length_eq

### PR DESCRIPTION
**Pull request by Jun2M**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Digits.lean [hunk 1]
```diff
@@ -370,6 +373,28 @@ theorem getLast_digit_ne_zero (b : ℕ) {m : ℕ} (hm : m ≠ 0) :
...
+    n * ofDigits b l = ofDigits b (l.map (n * ·)) := by
+  induction l with
+  | nil => rfl
+  | cons hd tl ih =>
+    rw [List.map_cons, ofDigits_cons, ofDigits_cons, ← ih]
+    ring
+
+theorem ofDigits_add_ofDigits_eq_ofDigits_zipWith_of_length_eq (b : ℕ) (l1 l2 : List ℕ)
+    (h : l1.length = l2.length) :
+    ofDigits b l1 + ofDigits b l2 = ofDigits b (l1.zipWith Nat.add l2) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:386]: I think this should have (\cdot + \cdot) rather than Nat.add

File: Mathlib/Data/Nat/Digits.lean [hunk 2]
```diff
@@ -201,6 +201,9 @@ theorem ofDigits_one_cons {α : Type*} [Semiring α] (h : ℕ) (L : List ℕ) :
     ofDigits (1 : α) (h :: L) = h + ofDigits 1 L := by simp [ofDigits]
 #align nat.of_digits_one_cons Nat.ofDigits_one_cons
 
+theorem ofDigits_cons {b hd} {tl : List ℕ} :
+    ofDigits b (hd :: tl) = hd + b * ofDigits b tl := by rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:205]:
```suggestion
    ofDigits b (hd :: tl) = hd + b * ofDigits b tl := rfl
```

File: Mathlib/Data/Nat/Digits.lean [hunk 3]
```diff
@@ -370,6 +373,28 @@ theorem getLast_digit_ne_zero (b : ℕ) {m : ℕ} (hm : m ≠ 0) :
     exact Nat.div_pos (le_of_not_lt hnb) (zero_lt_succ (succ b))
 #align nat.last_digit_ne_zero Nat.getLast_digit_ne_zero
 
+theorem mul_ofDigits (n : ℕ) {b : ℕ} {l : List ℕ} :
+    n * ofDigits b l = ofDigits b (l.map (n * ·)) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:377]: It had never occurred to me that ofDigits supported unbalanced lists of digits (i.e., with numbers greater than the base), but there doesn't seem to be an issue

File: Mathlib/Data/Nat/Digits.lean [hunk 4]
```diff
@@ -370,6 +373,28 @@ theorem getLast_digit_ne_zero (b : ℕ) {m : ℕ} (hm : m ≠ 0) :
...
+  induction l with
+  | nil => rfl
+  | cons hd tl ih =>
+    rw [List.map_cons, ofDigits_cons, ofDigits_cons, ← ih]
+    ring
+
+theorem ofDigits_add_ofDigits_eq_ofDigits_zipWith_of_length_eq (b : ℕ) (l1 l2 : List ℕ)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:384]: I think we would generally make b, l1 and l2 implicit arguments

Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Digits.lean:384]: That's a very long name. Is there something else that ofDigits_add_ofDigits could be that you need to distinguish it from?

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks for the contribution! I have some relatively minor comments/suggestions below.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge
